US07288559B2
Step B. (±)-5′-Bromo-spiro[imidazolidine-4,2′-indane]-2,5-dione
To a stirred solution of (±)-spiro[imidazolidine-4,2′-indane]-2,5-dione (1.0 g, 4.97 mmol) in 48% HBr (30 mL) was added Br2 (3.1 g, 19.9 mmol) and the reaction mixture was allowed to stir at ambient temperature for 4 days. The reaction was poured onto ice (30 g) and H2O (10 mL) and the solid precipitate filtered off, washed with H2O (4×20 mL), and dried in vacuo to give the title compound as a light brown solid. MS: m/z=282 (M+1).

reactant | (±)-spiro[imidazolidine-4,2′-indane]-2,5-dione | 4.97 mmol, 1.0 g | C1C2(CC3=CC=CC=C13)NC(NC2=O)=O | C11H10N2O2
reactant | Br2 | 19.9 mmol, 3.1 g | BrBr | Br2
reactant | H2O | 10 mL | O | H2O
solvent | HBr | 30 mL | Br | BrH
product | (±)-5′-Bromo-spiro[imidazolidine-4,2′-indane]-2,5-dione | BrC=1C=C2CC3(CC2=CC1)NC(NC3=O)=O | C11H9BrN2O2
